US07511077B2
Synthesis of N-{4-[6,6-bis-(4-fluoro-phenyl)-hexanoylamino]-but-2-ynyl}-4-chloro-benzamide (P28)
To a solution of 6,6-bis-(4-fluoro-phenyl)-hexanoic acid (4-amino-but-2-ynyl)-amide (0.69 g, 1.86 mmol) in dry CH2Cl2 (40 ml) was added 4-chlorobenzoic acid (0.29 g, 1.86 mmol) under nitrogen. To the reaction was added EDC (0.71 g, 3.72 mmol) and DMAP (cat) and the reaction mixture stirred under nitrogen at room temperature overnight. The reaction was then concentrated under reduced pressure. The residue dissolved in ethyl acetate: water (10:1) (150 ml). The organic was washed with water (30 ml, 2×) and 10% NaOH (30 ml) and dried over MgSO4 and evaporated to dryness. The resulting residue was purified by column chromatography using CH2Cl2:CH3OH (20:1) to give a desired product in good yield.

reactant | 6,6-bis-(4-fluoro-phenyl)-hexanoic acid (4-amino-but-2-ynyl)-amide | 1.86 mmol, 0.69 g | NCC#CCNC(CCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C22H24F2N2O
reactant | 4-chlorobenzoic acid | 1.86 mmol, 0.29 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | EDC | 3.72 mmol, 0.71 g
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-{4-[6,6-bis-(4-fluoro-phenyl)-hexanoylamino]-but-2-ynyl}-4-chloro-benzamide | FC1=CC=C(C=C1)C(CCCCC(=O)NCC#CCNC(C1=CC=C(C=C1)Cl)=O)C1=CC=C(C=C1)F | C29H27ClF2N2O2
